US08114868B2
(S)-3-((S)-1-(4-(1-(difluoromethyl)-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one
A microwave vial equipped with a flea stir bar was charged with (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan -2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (52 mg, 0.11 mmol), 1-(difluoromethyl)-4-iodopyridin-2(1H)-one (29 mg, 0.11 mmol), Cs2CO3 (71 mg, 0.22 mmol), H2O (0.1 mL) and dry dioxane (1 mL). The mixture was sparged with N2 for 5 min and PdCl2(dppf) (5 mg, 0.007 mmol) was added. The mixture was sparged with N2 for 5 min and heated at 110° C. in the microwave for 1 h. The mixture was diluted with 5% aq HCl (0.2 mL) and MeOH (2 mL) and filtered. The filtrate was directly purified by prep HPLC to afford a brown oil (16.2 mg) which was applied to a 2-g silica SPE cartridge which was eluted sequentially with 25 and 50% EtOAc in hexanes (15 mL of each) and EtOAc (3×15 mL) to afford five fractions. Fractions 3 and 4 were pooled and concentrated to afford (S)-3-(S)-1-(4-(1-(difluoromethyl)-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one (13.4 mg, 25%) as a colorless oil. LC-MS Method 1 tR=1.57 min, m/z=497, 439; 1H NMR (CD3OD) 0.96 (s, 3H), 1.27 (s, 3H), 1.56 (d, 3H), 2.15 (s, 2H), 2.21 (m, 1H), 2.40-2.60 (2H), 3.08 (m, 1H), 5.59 (q, 1H), 6.66 (s, 1H), 6.74 (d, 1H), 7.07 (d, 2H), 7.30-7.40 (5H), 7.45 (d, 2H), 7.77 (1H), 7.79 (t, 1H).

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan -2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.11 mmol, 52 mg | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 1-(difluoromethyl)-4-iodopyridin-2(1H)-one | 0.11 mmol, 29 mg | FC(N1C(C=C(C=C1)I)=O)F | C6H4F2INO
reactant | Cs2CO3 | 0.22 mmol, 71 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | H2O | 0.1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.007 mmol, 5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-3-((S)-1-(4-(1-(difluoromethyl)-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | 16.2 mg | FC(N1C(C=C(C=C1)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)=O)F | C28H30F2N2O4
